US05162359
5-[(4-Methoxyphenyl)-methyl]-2,3-dihydro-1H-benzimidazole-2-thione
A mixture of 0.35 g (1.16 mmoles) of 4-[(4-methoxyphenyl)-methyl]-o-phenylene-diamine dihydrochloride and 0.286 g (3.76 mmoles) of thiourea are melted in an oil-bath at a temperature of 150°-160° C. and kept at the same temperature for 2 hours.

reactant | 4-[(4-methoxyphenyl)-methyl]-o-phenylene-diamine dihydrochloride | 1.16 mmoles, 0.35 g | Cl.Cl.COC1=CC=C(C=C1)CC1=CC(=C(C=C1)N)N
reactant | thiourea | 3.76 mmoles, 0.286 g | NC(=S)N | CH4N2S
product | 5-[(4-Methoxyphenyl)-methyl]-2,3-dihydro-1H-benzimidazole-2-thione | COC1=CC=C(C=C1)CC1=CC2=C(NC(N2)=S)C=C1 | C15H14N2OS
